simulator lang=spectre
global 0

ahdl_include "../submission/limiter_rails.va"

Vdd (vdd 0) vsource dc=0.9
Vss (vss 0) vsource dc=0
Vmax (vmax 0) vsource dc=0.2
Vmin (vmin 0) vsource dc=0.1
Vin (vin 0) vsource type=pwl wave=[0 -0.2 10n -0.2 10.1n 0.4 20n 0.4 20.1n 0.9 30n 0.9 30.1n 0.05 45n 0.05]
XDUT (vdd vss vin vmax vmin vout) limiter_rails

tran tran stop=40n maxstep=25p
save vdd vin vmax vmin vout vss
